US08217177B2
Tert-butyl 2-(3-methoxyquinolin-6-yl)propanoate (0.865 g, 3.01 mmol) was dissolved in EtOAc (0.2M, 15 mL), and HCl (g) (0.0915 ml, 3.01 mmol) was bubbled through the solution for approximately 5 minutes. The reaction vessel was sealed and the reaction was stirred at room temperature for 1.5 h until completion. The reaction mixture was concentrated in vacuo to yield 2-(3-methoxyquinolin-6-yl)propanoic acid hydrochloride (0.805 g, 99.9% yield) as an orange solid.

reactant | Tert-butyl 2-(3-methoxyquinolin-6-yl)propanoate | 3.01 mmol, 0.865 g | COC=1C=NC2=CC=C(C=C2C1)C(C(=O)OC(C)(C)C)C | C17H21NO3
reactant | HCl | 3.01 mmol, 0.0915 ml | Cl | ClH
solvent | EtOAc | 0.2M, 15 mL | CCOC(=O)C | C4H8O2
product | 2-(3-methoxyquinolin-6-yl)propanoic acid hydrochloride | 0.805 g, 99.9% yield | Cl.COC=1C=NC2=CC=C(C=C2C1)C(C(=O)O)C | InChI=1S/C13H13NO3.ClH/c1-8(13(15)16)9-3-4-12-10(5-9)6-11(17-2)7-14-12;/h3-8H,1-2H3,(H,15,16);1H
